US04010210
Through a 570-mm long silica tube, 26 mm in diameter, heated to a temperature of 560° C, for 90 minutes are passed 40.0 g (0.34 mole) of 2-chlorothiophene and hydrogen sulphide at a rate of 5.2 litres per hour. The molar ratio of 2-chlorothiophene to hydrogen sulphide is 1:1. The condensate is distilled to give 16 g (48.2 percent by weight) of di(2-thienyl) sulphide boiling at 133°-140° C (5 mm Hg), nD20 = 1.6603, and 6.5 g of the starting 2-chlorothiophene (conversion 84 percent by weight).

reactant | 2-chlorothiophene | 0.34 mole, 40.0 g | ClC=1SC=CC1 | C4H3ClS
reactant | hydrogen sulphide | S | H2S
product | di(2-thienyl) sulphide | 16 g | S1C(=CC=C1)SC=1SC=CC1 | C8H6S3
